US05036083
3 Picolyl chloride hydrochloride (2 g) was added portionwise to a mixture of 1,2-dihydro-1-carboethoxy-4-(N-methylcarbamoyl)-3H-indazol-3-one (3 g), cesium carbonate (8.2 g) and dimethylformamide (25 ml) and the mixture was heated to 50° C. for 1 hour. Acetic acid was added to bring the mixture to pH 7 and then the mixture was evaporated. There was thus obtained as a solid 1,2-dihydro-1-carboethoxy-4-(N-methylcarbamoyl-2-(3-pyridylmethyl)-3H-indazol-3-one (1.8 g, 47%) which was used without further purification.

reactant | Picolyl chloride hydrochloride | 2 g | Cl.N1=C(C=CC=C1)CCl
reactant | 1,2-dihydro-1-carboethoxy-4-(N-methylcarbamoyl)-3H-indazol-3-one | 3 g | C(=O)(OCC)N1NC(C2=C(C=CC=C12)C(NC)=O)=O | C12H13N3O4
reactant | cesium carbonate | 8.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | Acetic acid | C(C)(=O)O | C2H4O2
product | N-methylcarbamoyl-2-(3-pyridylmethyl)-3H-indazol-3-one | 1.8 g, 47% | CNC(=O)N1N(C(C2=CC=CC=C12)=O)CC=1C=NC=CC1 | C15H14N4O2
